US07517899B2
To a mixture of indole (5 g, 42.7 mmol), zinc triflate (9.3 g, 25.6 mmol), and tetrabutylammonium iodide (7.9 g, 21.4 mmol) in anhydrous toluene (120 mL) was added diisopropylethylamine (8.2 mL, 47 mmol) at room temperature under a blanket of nitrogen. After the reaction was stirred 15 minutes at room temperature, the reaction mixture was treated with tert-butyl bromide (2.5 mL, 21.7 mmol). The reaction solution was stirred at room temperature under nitrogen for 3 hours, then poured into a saturated aqueous solution of ammonium chloride (150 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over magnesium sulfate, concentrated, and the residue was purified via flash column chromatography (silica, 10% ethyl acetate in hexane) to afford 3-tert-butyl-1H-indole as a white solid. MS (ES) m/z 174.2.

reactant | indole | 42.7 mmol, 5 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | diisopropylethylamine | 47 mmol, 8.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl bromide | 21.7 mmol, 2.5 mL | C(C)(C)(C)Br | C4H9Br
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
catalyst | tetrabutylammonium iodide | 21.4 mmol, 7.9 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | zinc triflate | 25.6 mmol, 9.3 g | [O-]S(=O)(=O)C(F)(F)F.[Zn+2].[O-]S(=O)(=O)C(F)(F)F
product | 3-tert-butyl-1H-indole | C(C)(C)(C)C1=CNC2=CC=CC=C12 | C12H15N
